US07034039B2
A solution of 2-(ethoxycarbonyl)-3,4-dimethoxybenzoic acid (4.45 g, 17.5 mmol), ethyl 2-(neopentylamino)acetate (3.47 g, 20 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (3.83 g, 20 mmol) in N,N-dimethylformamide (50 ml) was stirred at room temperature for 3 h. The reactions mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in ethanol (50 ml) and 20% sodium ethoxide ethanol solution (34.04 g, 100 mmol) was added thereto. The mixture was stirred at room temperature for 1 h. The reaction mixture was poured into 1N hydrochloric acid (150 ml) and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give ethyl 5,6-dimethoxy-4-hydroxy-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate (3.21 g, 50.6%) as an oil.

reactant | 2-(ethoxycarbonyl)-3,4-dimethoxybenzoic acid | 17.5 mmol, 4.45 g | C(C)OC(=O)C1=C(C(=O)O)C=CC(=C1OC)OC | C12H14O6
reactant | ethyl 2-(neopentylamino)acetate | 20 mmol, 3.47 g | C(C(C)(C)C)NCC(=O)OCC | C9H19NO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 20 mmol, 3.83 g | Cl.C(C)N=C=NCCCN(C)C
reactant | sodium ethoxide ethanol | 100 mmol, 34.04 g | C(C)O.[O-]CC.[Na+]
reactant | hydrochloric acid | 1N, 150 ml | Cl | ClH
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 5,6-dimethoxy-4-hydroxy-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate | 3.21 g, 50.6% | COC1=C2C(=C(N(C(C2=CC=C1OC)=O)CC(C)(C)C)C(=O)OCC)O | C19H25NO6
